US05002634
Little is known, however, concerning the reaction of methoxy and 2,6-dimethoxy-p-benzoquinone. (The latter can be generated from lignin). It has been shown that methoxy-p-benzoquinone will react with 1,3-butadiene to give 2-methoxy-4a,5,8,8a-tetrahydronapthoquinone [G. I. Birnbaum, J. Org. Chem., 25, 1660-1, (1960)]and with 2,3-dimethyl-1,3-butadiene to give 5,8-dihydro-2-methoxy-6,7-dimethyl -1,4-napthoquinone [M. F. Ansell, J. Chem. Soc., 3020, (1963)]. A more recent publication has shown that 2,6-dimethoxy-p-benzoquinone can be combined with isoprene to give a mixture of 2-methoxy-6-methyl-1,4-napthoquinone and 2-methoxy-7-methyl-1,4-napthoquinone [I.-M. TegmoLarsson, Tetra. Letters, 22, 2043-6, (1981)].

reactant | methoxy-p-benzoquinone | COC=1C(C=CC(C1)=O)=O | C7H6O3
reactant | 1,3-butadiene | C=CC=C | C4H6
product | 2-methoxy-4a,5,8,8a-tetrahydronapthoquinone | COC=1C(C2CC=CCC2C(C1)=O)=O | C11H12O3
